US07807672B2
Preparation of [3-(3-Chloro-4-hydroxy-phenylcarbamoyl)-pyrrolidin-1-yl]-acetic acid
[3-(3-Chloro-4-hydroxy-phenylcarbamoyl)-pyrrolidin-1-yl]-acetic acid tert-butyl ester was dissolved in TFA/DCM (90:10) solution. After stirring at RT for 30 min, the reaction mixture was concentrated and acetonitrile/water (10 ml, 3:1) was added. After removal of solvent, the residue was purified using Prep-HPLC to give 450 mg of product.

reactant | [3-(3-Chloro-4-hydroxy-phenylcarbamoyl)-pyrrolidin-1-yl]-acetic acid tert-butyl ester | C(C)(C)(C)OC(CN1CC(CC1)C(NC1=CC(=C(C=C1)O)Cl)=O)=O | C17H23ClN2O4
solvent | TFA DCM | C(=O)(C(F)(F)F)O.C(Cl)Cl
product | [3-(3-Chloro-4-hydroxy-phenylcarbamoyl)-pyrrolidin-1-yl]-acetic acid | 450 mg | ClC=1C=C(C=CC1O)NC(=O)C1CN(CC1)CC(=O)O | C13H15ClN2O4
